US05486516
5-Methyl-N-[2-(4-methoxyphenyl)ethyl]furo[2,3-d]-pyrimidin-4-amine
A mixture of 4 g of 2-amino-3-cyano-4-methylfuran, 3 mL of triethylorthoformate and 0.5 mL of acetic anhydride was heated at 135° C. for three hours. To the hot solution was added 4.5 g of 2-(4-methoxyphenyl)ethylamine, 5 mL of acetic anhydride, and 3.1 g of sodium acetate. The temperature of the mixture was kept at 135° C. for three additional hours, then the mixture was cooled and combined with a mixture of water and ether. The ether layer was separated, and product was extracted from the remaining aqueous layer with large volumes of ether. The ether extracts were combined, dried over magnesium sulfate, filtered, and concentrated. The residue was recrystallized from acetone/ether. Yield 2.6 g. M.P. 184° C.

reactant | 2-amino-3-cyano-4-methylfuran | 4 g | NC=1OC=C(C1C#N)C | C6H6N2O
reactant | triethylorthoformate | 3 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(4-methoxyphenyl)ethylamine | 4.5 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 3.1 g | C(C)(=O)[O-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 5-Methyl-N-[2-(4-methoxyphenyl)ethyl]furo[2,3-d]-pyrimidin-4-amine | CC1=COC=2N=CN=C(C21)NCCC2=CC=C(C=C2)OC | C16H17N3O2
